US09315467B2
Preparation of 3-[5-(4-Isopropyl-phenyl)-pyridin-3-yl]-benzoic acid (Compound 11)
Part C. A solution of ethyl 3-[5-(4-isopropyl-phenyl)-pyridin-3-yl]-benzoate (100 mg) in methanol-water (3 mL/1 mL) is treated with lithium hydroxide hydrate (50 mg), and the solution is heated to 40-50° C. for 12 h. After cooling, the solution is neutralized to pH 7 with 3 N HCl and extracted with ethyl acetate. The extract is washed with brine, dried over sodium sulfate, filtered and evaporated to afford the title compound as a powder (80 mg, 87%), m.p. 155-156° C. 1H NMR (300 MHz, CDCl3): δ 8.93-8.90 (2H, m), 8.44 (1H, s), 8.21-8.19 (2H, m), 7.89 (1H, d, J=7 Hz), 7.64 (1H, t, J=8 Hz), 7.61 (2H, d, J=9 Hz), 7.39 (2H, d, J=9 Hz), 3.00 (1H, heptet, J=7 Hz), 1.30 (6H, d, J=7 Hz). MS (ES+): m/e 319 (22), 318 (100).

reactant | ethyl 3-[5-(4-isopropyl-phenyl)-pyridin-3-yl]-benzoate | 100 mg | C(C)(C)C1=CC=C(C=C1)C=1C=C(C=NC1)C=1C=C(C(=O)OCC)C=CC1 | C23H23NO2
reactant | lithium hydroxide hydrate | 50 mg | O.[OH-].[Li+]
reactant | HCl | 3 N | Cl | ClH
solvent | methanol water | 3 mL | CO.O
product | 3-[5-(4-Isopropyl-phenyl)-pyridin-3-yl]-benzoic acid | 80 mg, 87% | C(C)(C)C1=CC=C(C=C1)C=1C=C(C=NC1)C=1C=C(C(=O)O)C=CC1 | C21H19NO2
